US07662771B2
Add a solution of tert-butyllithium (26.35 mmol, 15.5 mL, 1.7 M in hexanes) dropwise to a solution of 4-(4-methoxyphenyl)-2-methylthiazole (6.15 g, 29.9 mmol) in degassed anhydrous tetrahydrofuran (THF) (100 mL) at −78° C. under nitrogen and stir the solution for 45 minutes. To this solution, add a solution of (6-bromohexyloxy)-tert-butyldimethylsilane (7.20 g, 24.4 mmol) over 5 min and stir the mixture for 2 hours. Warm the mixture to 0° C., dilute with NH4Cl (200 mL) and brine (250 mL) and extract with methylene chloride (3×150 mL). Dry the combined organic extracts over magnesium sulfate and remove the solvent under reduced pressure. Purify the crude product by flash column chromatography on silica gel, eluting with hexanes/ethyl acetate (5:1), to provide 2-[7-(tert-butyldimethylsilanyloxy)heptyl]-4-(4-methoxyphenyl)thiazole (6.27 g, 50%).

reactant | tert-butyllithium | 26.35 mmol, 1.7 M, 15.5 mL | C(C)(C)(C)[Li]
reactant | 4-(4-methoxyphenyl)-2-methylthiazole | 29.9 mmol, 6.15 g | COC1=CC=C(C=C1)C=1N=C(SC1)C | C11H11NOS
reactant | (6-bromohexyloxy)-tert-butyldimethylsilane | 24.4 mmol, 7.20 g | BrCCCCCCO[Si](C)(C)C(C)(C)C | C12H27BrOSi
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | NH4Cl | 200 mL | [NH4+].[Cl-]
solvent | brine | 250 mL | [Cl-].[Na+].O
product | 2-[7-(tert-butyldimethylsilanyloxy)heptyl]-4-(4-methoxyphenyl)thiazole | 6.27 g, 50% | [Si](C)(C)(C(C)(C)C)OCCCCCCCC=1SC=C(N1)C1=CC=C(C=C1)OC | C23H37NO2SSi
